US07256177B2
Ethyl n-propylacrylate 21c (R9=n-propyl).
To a solution of ethyl n-propylmalonate (41.3 g, 237 mmol, 1 equiv) in EtOH (500 mL) at 23° C. was added piperidine (28.1 mL, 284 mmol, 1.2 equiv) followed by aqueous formaldehyde (37%, 88 mL). Following the addition, the reaction was refluxed for 29 h. After cooling to 23° C., the mixture was partitioned between diethyl ether (500 mL) and 1.0 N HCl (800 mL). The layers were separated and the aqueous layer was extracted with diethyl ether (500 mL). The combined organic layers were washed with H2O (500 mL), brine (300 mL), dried (MgSO4), filtered and carefully concentrated to avoid loss of the potentially volatile product. The product was vacuum distilled (bp 70° C. at 15 mmHg) to give 16.4 g 21c (R9=n-propyl) (115 mmol, 49%) of the desired product: 1H NMR shows contamination with unidentified material; the product was used in the subsequent step without further purification: 1H NMR (300 MHz, CDCl3) 6.12 (s, 1H), 5.50 (s, 1H), 4.19 (q, J=7.2 Hz, 2H), 2.23 (t, J=7.5 Hz, 2H), 1.55-1.42 (m, 2H), 1.24 (t, J=7.2 Hz, 3H), 0.92 (t, J=7.5 Hz, 3H).

reactant | ethyl n-propylmalonate | 237 mmol, 41.3 g, 1 equiv | C(CC)C(C(=O)OCC)C(=O)[O-]
reactant | piperidine | 284 mmol, 28.1 mL, 1.2 equiv | N1CCCCC1 | C5H11N
reactant | formaldehyde | 88 mL | C=O | CH2O
solvent | EtOH | 500 mL | CCO | C2H6O
product | Ethyl n-propylacrylate | 115 mmol, 49% | C(CC)C(C(=O)OCC)=C | C8H14O2
